US05280032
5 g of (S)-4-benzyl-2-acetoxymethylmorpholine was dissolved in 10 ml of ethanol. To the solution was added a solution of 1 9 of sodium hydroxide dissolved in 5 ml of water with ice cooling. The mixture was stirred at room temperature for 10 minutes. The reaction mixture was added to 50 ml of ice water and extracted with 50 ml of chloroform. The organic layer was washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: chloroform/ethanol=30/1) to obtain 3.6 g of oily (S)-4-benzyl-2-hydroxymethylmorpholine.

reactant | (S)-4-benzyl-2-acetoxymethylmorpholine | 5 g | C(C1=CC=CC=C1)N1C[C@H](OCC1)COC(C)=O | C14H19NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | (S)-4-benzyl-2-hydroxymethylmorpholine | 3.6 g | C(C1=CC=CC=C1)N1C[C@H](OCC1)CO | C12H17NO2
